US07329658B2
Preparation of Intermediate 3-Ethylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt (I-2A-1g)
To a solution of 1-benzhydryl-3-(benzylethylamino)-azetidine-3-carboxylic acid amide hydrochloride salt (I-2A-1e; 0.66 g, 1.4 mmol) in methanol (25 ml) was added 20% Pd(OH)2 on carbon (30% water; 0.13 g). The mixture was placed on a Parr® shaker and then reduced (45 psi H2) at room temperature overnight. The mixture was diluted with methanol (200 ml) filtered through a 0.45 μm filter disk, and then concentrated to a solid. The residue was triturated from diethyl ether, collected by vacuum filtration, washed with diethyl ether and then dried, in vacuo, to afford I-2A-1g (298 mg, 98%): +APcI MS (M+1) 144.1; 1H NMR (400 MHz, CD2Cl2) δ 4.56 (br s, 4H), 3.00 (q, J=7.2 Hz, 2H), 1.36 (t, J=7.1 Hz, 3H).

reactant | 1-benzhydryl-3-(benzylethylamino)-azetidine-3-carboxylic acid amide hydrochloride salt | 1.4 mmol, 0.66 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NCCCC1=CC=CC=C1
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd(OH)2 on carbon | 0.13 g | [OH-].[OH-].[Pd+2]
product | 3-Ethylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt | Cl.C(C)NC1(CNC1)C(=O)N | InChI=1S/C6H13N3O.ClH/c1-2-9-6(5(7)10)3-8-4-6;/h8-9H,2-4H2,1H3,(H2,7,10);1H
